US05319099
(2) 1-(N-Methoxy-N-methylcarbamoyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-5,5-dimethylpyrrolidin-2-one (Id-3)
To a chilled solution (-70° C.) of 453 mg (2.26 mmol) of the thus obtained 1-(N-methoxy-N-methylcarbamoyl)-5,5-dimethylpyrrolidin-2-one in THF (12 ml) was added 2.26 ml (2.26 mmol) of a THF solution of 1.0M lithium hexamethyldisilazane while being stirred under a nitrogen atmosphere. Five minutes later, 693 mg (2.26 mmol) of 3,5-di-tert-butyl-4-trimethylsiloxybenzaldehyde was added thereto and the mixture was warmed to room temperature and stirred for 2 hours. The reaction mixture was then poured into ice-water and extracted with dichloromethane. The dichloromethane layer was washed with water, dried over magnesium sulfate and evaporated to give a residue, which was then dissolved in 23 ml of toluene. To the mixture was added 145 mg of p-toluenesulfonic acid, which was refluxed for 1.5 hours. The solvent was removed under reduced pressure to give a residue, which was dissolved in 13 ml of THF and stirred under ice-cooling. To the reaction mixture was added 1 ml of a THF solution of 2.0M tetra-n-butylammonium fluoride, which was stirred for 10 minutes. The reaction mixture was poured into ice-water containing sodium bicarbonate and extracted with dichloromethane. The dichloromethane layer was washed with an aq. sodium bicarbonate and water, dried over magnesium sulfate and evaporated to give a residue, which was then chromatographed on silica gel (toluene/ethyl acetate=9/1) and lyophilized from benzene to give 270 mg of the objective compound (Id-3) in 29% yield.

reactant | 1-(N-methoxy-N-methylcarbamoyl)-5,5-dimethylpyrrolidin-2-one | CON(C(=O)N1C(CCC1(C)C)=O)C | C9H16N2O3
reactant | lithium hexamethyldisilazane | 1.0M | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | 3,5-di-tert-butyl-4-trimethylsiloxybenzaldehyde | 2.26 mmol, 693 mg | C(C)(C)(C)C=1C=C(C=O)C=C(C1O[Si](C)(C)C)C(C)(C)C | C18H30O2Si
reactant | p-toluenesulfonic acid | 145 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | tetra-n-butylammonium fluoride | 2.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | toluene | 23 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 13 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 2.26 mmol, 2.26 ml | C1CCOC1 | C4H8O
product | 1-(N-Methoxy-N-methylcarbamoyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-5,5-dimethylpyrrolidin-2-one | 270 mg, 29% yield | CON(C(=O)N1C(C(CC1(C)C)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)C | C24H36N2O4
